** Ideal Thyristors

** Ideal Thyristor (with driver)
* Turns on when absolute voltage at gate is greater than 'vt' threshold voltage
* Conducts with resistance of 'ron'
* Blocks with resistance of 'roff'
* Conducts until current is less than 'ihold'
* Doesn't trigger on negative voltage (diode alike)
*
.subckt ITHYRISTORDRIVER a g c roff=1Meg ron=1m ihold=10mA vt=0.5V
	vImeas	a	mid	0
	Bmc	mid	c	i={ v(g) >= vt && v(a,c) > 0 ? v(a,c)/ron : i(vImeas) >= ihold ? v(a,c)/ron : v(a,c)/roff }
.ends ITHYRISTORDRIVER a g c





